US08957203B2
To a round-bottom flask equipped with a stir bar was added N-(tert-butyl)-1-(fluoromethyl)cyclopropane-1-sulfonamide (5.66 g, 27.0 mmol) and trifluoroacetic acid (20 mL). The solution was stirred at room temperature for 18 h. The solution was concentrated in vacuo to afford a dark orange oil. The oil was treated with hexanes:EtOAc (4:1) upon which a solid crystallized. The crystals were collected via filtrated and residual solvent was removed in vacuo to afford 1-(fluoromethyl)cyclopropane-1-sulfonamide as a colorless, crystalline solid (3.5 g, 84%). 1H NMR (400 MHz, CDCl3) δ 4.79 (s, 1H), 4.67 (s, 1H), 3.28 (br. s., 2H), 1.63-1.56 (m, 2H), 1.16-1.10 (m, 2H).

reactant | N-(tert-butyl)-1-(fluoromethyl)cyclopropane-1-sulfonamide | 27.0 mmol, 5.66 g | C(C)(C)(C)NS(=O)(=O)C1(CC1)CF | C8H16FNO2S
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(fluoromethyl)cyclopropane-1-sulfonamide | FCC1(CC1)S(=O)(=O)N | C4H8FNO2S
